Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / Biaxin
 
Attending: ___.
 
Chief Complaint:
vaginal pain, vaginal bleeding 
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Pt is a ___ y.o woman with h.o uterine cancer s/p surgery getting 
pelvic radiation and chemotherapy and now vaginal brachytherapy  
who presents with ___ vaginal pain, dysuria, hematuria not 
controlled with OTC meds. Pt reports that pain feels like a 
flame/cuts in the vagina with intermittent vaginal spasms. At 
best pain is ___ ___nd ___ when urinating and having 
a BM. Pt reports pain became significant after her ___ radiation 
session and most significant after the ___ session last 
___. She also reports having hematuria and ?vaginal 
bleeding with urination. She reports chronic diarrhea related to 
radiation but none recently. She otherwise denies abdominal 
pain, nausea, vomiting, constipation, melena, brbpr, fever or 
chills. She reports subjective weight loss. She denies CP, sob, 
palpitations, rash. She has been trying OTC meds without relief 
including taking her husband's oxycodone 5mg x1 without effect. 
She reports trying ___ baths, topical and edible aloe. She 
reports new R.leg edema today.  

In the ED, she was noted to have erythematous and edematous 
labia majora, minora without active bleeding. Rad onc states 
that they would start with u/a ucx, CT and likely hold/cancel 
last vaginal brachytherapy treatment for now. She was given 
ceftriaxone and morphine. VSS other than 1 episode of 
hypotension to the 90's. 

Other 10 pt ROS reviewed and otherwise negative 
 
Past Medical History:
uterine cancer s/p surgery, chemo/radiation and brachytherapy
undergoing several cycles chemotherapy, next due ___
 
Social History:
___
Family History:
Mother- died many years ago, cause or medical hx unknown
maternal uncle- breast ca (carrier of BRCA gene)
one of his daughters - ovarian ca
1 daughter with ___ wife- breast ca

Father- prostate ca, 
___- 1 brother, prostate ca
Children-no
 
Physical Exam:
GEN: well appearing, Nad
vitals:99.1
PO ___ 18 97 RA 
HEENT: ncat eomi anicteric 
chest: b/l ae no w/c/r
heart: s1s2 rr no m/r/g
abd: +bs, soft, NT, ND, no guarding or rebound
genital: marked swelling of the labia majora and minora with 
erythema no obvious lesions or bleeding
ext: no c/c/e 2+pulses
neuro: face symmetric, speech fluent
psych: calm, cooperative 

Discharge exam:
vaginal exam with persistent posterior excoriations.

 
Pertinent Results:
___ 03:10PM   ___ PTT-28.3 ___
___ 01:50PM   LACTATE-1.4
___ 01:30PM   GLUCOSE-95 UREA N-22* CREAT-0.9 SODIUM-134 
POTASSIUM-3.6 CHLORIDE-98 TOTAL CO2-21* ANION GAP-19
___ 01:30PM   estGFR-Using this
___ 01:30PM   WBC-4.1 RBC-2.49* HGB-9.0* HCT-25.7* MCV-103* 
MCH-36.1* MCHC-35.0 RDW-13.6 RDWSD-51.0*
___ 01:30PM   NEUTS-64 BANDS-0 LYMPHS-11* MONOS-16* EOS-1 
BASOS-0 ___ METAS-4* MYELOS-4* AbsNeut-2.62 AbsLymp-0.45* 
AbsMono-0.66 AbsEos-0.04 AbsBaso-0.00*
___ 01:30PM   HYPOCHROM-NORMAL ANISOCYT-NORMAL 
POIKILOCY-NORMAL MACROCYT-OCCASIONAL MICROCYT-NORMAL 
POLYCHROM-OCCASIONAL
___ 01:30PM   PLT SMR-LOW PLT COUNT-130*
___ 12:15PM URINE  HOURS-RANDOM
___ 12:15PM URINE  UHOLD-HOLD
___ 12:15PM URINE  UHOLD-HOLD
___ 12:15PM URINE  BLOOD-LG NITRITE-NEG PROTEIN-100 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-MOD
___ 12:15PM URINE  RBC->182* WBC-70* BACTERIA-FEW 
YEAST-NONE EPI-<1
___ 12:15PM URINE  HYALINE-2*
___ 12:15PM URINE  MUCOUS-RARE

CT scan:
IMPRESSION: 
1. No acute process identified within the abdomen or pelvis. 
2. Small hiatus hernia.  Mild colonic diverticulosis.  Other 
incidental 
findings, as above 

Urine culture contaminated.  

Discharge labs:
___ 06:55AM BLOOD WBC-3.1* RBC-2.12* Hgb-7.7* Hct-22.3* 
MCV-105* MCH-36.3* MCHC-34.5 RDW-13.9 RDWSD-53.0* Plt ___
___ 01:30PM BLOOD Neuts-64 Bands-0 Lymphs-11* Monos-16* 
Eos-1 Baso-0 ___ Metas-4* Myelos-4* AbsNeut-2.62 
AbsLymp-0.45* AbsMono-0.66 AbsEos-0.04 AbsBaso-0.00*
 
Brief Hospital Course:
___ y.o woman with h.o endometrial cancer s/p surgery with pelvic 
radiation and chemotherapy underoing vaginal brachytherapy who 
presents with vaginal pain, dysuria, hematuria intractable to 
current pain regimen.

#endometrial cancer s/p surgery, chemotherapy, radiation, 
brachytherapy
#vaginal pain/swelling
She was admitted with severe symptoms after her most recent 
radiation session, with dysuria, frequency and urgency, as well 
as severe local pain. Per her radiation oncologist, she may have 
had significant skin desensitization from the taxol. She was 
treated with advil, ibuprofen, ice and local barrier cream.

#dysuria/hematuria/pyuria
Urine culture was negative.

#Acute anemia, likely from chemotherapy and vaginal bleeding
She was noted to be at her nadir from chemotherapy, with 
possible contribution from her bleeding from the vaginal 
excoriations.  She was transfused one unit of blood prior to dc.

#Rleg ___ was negative for DVT

Transitional issues:
She is leaving for ___ on ___ - but if stays here, will 
need to see oncology next week.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lumigan (bimatoprost) 0.01 % ophthalmic DAILY 
2. Psyllium Wafer 1 WAF PO DAILY 
3. Tirosint (levothyroxine) 65 mg oral DAILY 
4. Vitamin D 1000 UNIT PO DAILY 
5. Dexamethasone 4 mg PO Q12H 
6. Diphenoxylate-Atropine 1 TAB PO Q6H:PRN diarrhea 
7. Lisinopril 20 mg PO DAILY 
8. LORazepam 0.5 mg PO Q6H:PRN anxiety, nausea 
9. Ondansetron 8 mg PO Q8H:PRN nausea 
10. Prochlorperazine 10 mg PO Q6H:PRN nausea 
11. Ibuprofen 600 mg PO Q6H:PRN Pain - Mild 
12. Acetaminophen 1000 mg PO Q6H:PRN Pain - Mild 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Vaginitis and severe pain
Endometrial cancer with vaginal recurrence
Acute Anemia
 
Discharge Condition:
tolerating diet, pain controlled.
 
Discharge Instructions:
You were admitted with pain in your vaginal area after radiation 
treatment.  We found that you had local irritation and skin 
breakdown from the radiation and the chemotherapy.  We did not 
find a urinary tract infection.

continue the topical treatments and Tylenol and ibuprofen, as 
well as ice packs and barrier cream.

It should heal up over the next week
 
Followup Instructions:
___